US08003604B2
14-tert-Butoxycarbonylamino-18-(tert-butyl-dimethyl-silanyloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid (500 mg, 0.86 mmol.) was dissolved in 25 mL of THF and treated with CDI (180 mg, 1.12 mmol.). (Care was taken to avoid moisture by using oven dried glassware and maintaining a dry N2 atmosphere). After refluxing the reaction mixture for 2 h, it was cooled to rt and treated sequentially with cyclopropylsulfonamide (135 mg, 1.12 mmol.) and DBU (170 mg, 1.12 mmol.). The reaction mixture was stirred for 4 h at rt, and the THF was removed by rotary evaporation. The residue was partitioned between ethyl acetate and pH 4 buffer. The organic phase was dried (MgSO4) and concentrated in vacuo to give the crude product. It was then purified by flash chromatography (eluting with 33% ethyl acetate in hexane) to give 300 mg (51%) of [18-(tert-butyl-dimethyl-silanyloxy)-4-cyclopropanesulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid tert-butyl ester as a white solid. 1H NMR (300 MHz, CD3OD) δ 1H 0.07 (s, 3H), 0.08 (s, 3H), 0.85 (s, 9H), 0.87-1.49 (m, 21H), 1.73-1.95 (m, 3H), 2.08-2.16 (m, 1H), 2.25-2.36 (m, 2H), 2.42-2.56 (m, 1H), 2.85-2.93 (m, 1H), 3.65-3.74 (dd, J=10.61, 3.66 Hz, 1H), 3.89 (d, J=10.25 Hz, 1H), 4.34 (m, J=9.70, 9.70 Hz, 1H), 4.43 (t, J=7.87 Hz, 1H), 4.57 (s, 1H), 4.94-5.01 (m, 1H), 5.10 (d, J=8.78 Hz, 1H), 5.66-5.75 (m, 1H), 6.55 (s, 1H), 10.13 (s, 1H); MS m/z 683 (M++1).

reactant | 14-tert-Butoxycarbonylamino-18-(tert-butyl-dimethyl-silanyloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic acid | 0.86 mmol, 500 mg | C(C)(C)(C)OC(=O)NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)O[Si](C)(C)C(C)(C)C)=O)C(=O)O | C29H49N3O7Si
reactant | CDI | 1.12 mmol, 180 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | cyclopropylsulfonamide | 1.12 mmol, 135 mg | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | DBU | 1.12 mmol, 170 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | [18-(tert-butyl-dimethyl-silanyloxy)-4-cyclopropanesulfonylaminocarbonyl-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid tert-butyl ester | 300 mg, 51% | C(C)(C)(C)OC(NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)O[Si](C)(C)C(C)(C)C)=O)C(=O)NS(=O)(=O)C1CC1)=O | C32H54N4O8SSi
